US04482560
1.43 Grams of 1-methyl-6-(2-bromoethoxy)-3,4-dihydrocarbostyril, 1.3 g of 4-acetyl-4-phenylpiperidine and 1 g of triethylamine were mixed with 30 ml of dimethylformamide and the mixture was heated at 60°-70° C. for 5 hours. The reaction mixture thus obtained was concentrated under a reduced pressure to dryness, and to the residue thus obtained was added 5% sodium hydrogencarbonate aqueous solution and stirred. The insoluble matters were collected by filtration, washed with water then dried and recrystallized from ethanol-water to obtain 1.3 g of 1-methyl-6-[2-(4-acetyl-4-phenyl-1-piperidyl)ethoxy]-3,4-dihydrocarbostyril as in the form of colorless prism-like crystals. Melting point: 101°-103° C.

reactant | 1-methyl-6-(2-bromoethoxy)-3,4-dihydrocarbostyril | CN1C(=O)CCC2=CC(=CC=C12)OCCBr | C12H14BrNO2
reactant | 4-acetyl-4-phenylpiperidine | 1.3 g | C(C)(=O)C1(CCNCC1)C1=CC=CC=C1 | C13H17NO
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-methyl-6-[2-(4-acetyl-4-phenyl-1-piperidyl)ethoxy]-3,4-dihydrocarbostyril | 1.3 g | CN1C(=O)CCC2=CC(=CC=C12)OCCN1CCC(CC1)(C1=CC=CC=C1)C(C)=O | C25H30N2O3
